US09278944B2
To a mixture of tert-butyl cyclopropyl[1-(4-hydroxy2-naphthyl)ethyl]carbamate (43 mg) and potassium carbonate (27 mg) was added N,N-dimethylformamide (2.0 mL), and then thereto added methyl iodide (0.016 mL), and the mixture was stirred at room temperature for 4 hours. After cooling, to the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water twice and saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=10/1→4/1) to give tert-butyl cyclopropyl[1-(4-methoxy-2-naphthyl)ethyl]carbamate [REx(4-1)] (33 mg) as a colorless oil.

reactant | tert-butyl cyclopropyl[1-(4-hydroxy2-naphthyl)ethyl]carbamate | 43 mg | C1(CC1)N(C(OC(C)(C)C)=O)C(C)C1=CC2=CC=CC=C2C(=C1)O | C20H25NO3
reactant | potassium carbonate | 27 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.016 mL | CI | CH3I
solvent | water | O | H2O
product | tert-butyl cyclopropyl[1-(4-methoxy-2-naphthyl)ethyl]carbamate | 33 mg | C1(CC1)N(C(OC(C)(C)C)=O)C(C)C1=CC2=CC=CC=C2C(=C1)OC | C21H27NO3
